US05200534
Taxol
In the manner of the procedure of EXAMPLE 1, 0.5 g of taxol-7-xyloside was oxidatively cleaved. The product, after treatment with phenylhydrazine, was taken up in 25% acetonitrile in water and applied to a column of 10 g of C-18 reverse phase silica. The column was eluted with a gradient of acetonitrile in water (30, 35, 40, 45 and 50%).

reactant | taxol-7-xyloside | 0.5 g | CC1=C2[C@H](C(=O)[C@@]3([C@H](C[C@@H]4[C@]([C@H]3[C@@H]([C@@](C2(C)C)(C[C@@H]1OC(=O)[C@@H]([C@H](C5=CC=CC=C5)NC(=O)C6=CC=CC=C6)O)O)OC(=O)C7=CC=CC=C7)(CO4)OC(=O)C)O[C@H]8[C@@H]([C@H]([C@@H](CO8)O)O)O)C)OC(=O)C | C52H59NO18
reactant | phenylhydrazine | C1(=CC=CC=C1)NN | C6H8N2
solvent | acetonitrile | C(C)#N | C2H3N
solvent | water | O | H2O
product | Taxol | CC1=C2[C@H](C(=O)[C@@]3([C@H](C[C@@H]4[C@]([C@H]3[C@@H]([C@@](C2(C)C)(C[C@@H]1OC(=O)[C@@H]([C@H](C=5C=CC=CC5)NC(=O)C=6C=CC=CC6)O)O)OC(=O)C=7C=CC=CC7)(CO4)OC(=O)C)O)C)OC(=O)C | C47H51NO14
